### PR TITLE
Add PER definition

### PR DESCRIPTION
**Pull request by Ailrun**
Revised version of #44. Closes #36. Resolves partially #34.

> @HuStmpHrrr: Yeah I don't see any problem doing what I proposed, other than some back and forth to get the definition right. You need to define a functional relation for the values anyways, so essentially there is no need for separate inductive definitions.

I don't get "You need to define a functional relation for the values anyways" part. What do you mean by we need a functional relation anyway?
Why the current `per_elem` is not enough?

Actually, I tried `per_elem_graph : domain -> domain -> relation domain -> Prop`, but this has a strict positivity issue.

### CODE REVIEW

File: theories/Core/Semantic/PER.v [hunk 1]
```diff
@@ -0,0 +1,183 @@
...
+Record rel_mod_eval (R : relation domain) A p A' p' : Prop := mk_rel_mod_eval
+  { rel_mod_eval_A : exists a, {{ ⟦ A ⟧ p ↘ a }}
+  ; rel_mod_eval_A' : exists a', {{ ⟦ A' ⟧ p' ↘ a' }}
+  ; rel_mod_eval_equiv : forall {a a'}, {{ ⟦ A ⟧ p ↘ a }} -> {{ ⟦ A' ⟧ p' ↘ a' }} -> {{ Dom a ≈ a' ∈ R }}
+  }
+.
+Arguments mk_rel_mod_eval {_} {_} {_} {_} {_}.
+Arguments rel_mod_eval_A {_} {_} {_} {_} {_}.
+Arguments rel_mod_eval_A' {_} {_} {_} {_} {_}.
+Arguments rel_mod_eval_equiv {_} {_} {_} {_} {_} _ {_} {_} _ _.
```
Comment (Ailrun) [inline theories/Core/Semantic/PER.v:20]: `Set Implicit Arguments.` does not work for these; by putting `Check mk_rel_mod_eval.` (and likewise things for others) before and after `Arguments` command show differences even with the flag.

File: theories/Core/Semantic/PERLemmas.v [hunk 2]
```diff
@@ -0,0 +1,102 @@
...
+Lemma per_univ_ind : forall i P,
+    (forall j j', j < i -> j = j' -> {{ Dom 𝕌@j ≈ 𝕌@j' ∈ P }}) ->
+    {{ Dom ℕ ≈ ℕ ∈ P }} ->
+    (forall a a' B p B' p'
+        (equiv_a_a' : {{ Dom a ≈ a' ∈ per_univ i }}),
+        {{ Dom a ≈ a' ∈ P }} ->
+        (forall c c',
+            {{ Dom c ≈ c' ∈ per_elem equiv_a_a' }} ->
+            rel_mod_eval (per_univ i) B d{{{ p ↦ c}}} B' d{{{ p' ↦ c'}}}) ->
+        {{ Dom Π a p B ≈ Π a' p' B' ∈ P }}) ->
```
Comment (Ailrun) [inline theories/Core/Semantic/PERLemmas.v:85]: This principle should be strengthened with one more hypothesis for this case.

File: theories/Core/Semantic/PERLemmas.v [hunk 3]
```diff
@@ -0,0 +1,105 @@
...
+        (equiv_a_a' : {{ Dom a ≈ a' ∈ per_univ i }}),
+        {{ Dom a ≈ a' ∈ P }} ->
+        (forall c c',
+            {{ Dom c ≈ c' ∈ per_elem equiv_a_a' }} ->
+            rel_mod_eval (per_univ i) B d{{{ p ↦ c}}} B' d{{{ p' ↦ c'}}}) ->
+        (forall {c c'} (equiv_c_c' : {{ Dom c ≈ c' ∈ per_elem equiv_a_a' }}),
+            rel_mod_eval P B d{{{ p ↦ c}}} B' d{{{ p' ↦ c'}}}) ->
+        {{ Dom Π a p B ≈ Π a' p' B' ∈ P }}) ->
+    (forall m m' a a', {{ Dom m ≈ m' ∈ per_bot }} -> {{ Dom ⇑ a m ≈ ⇑ a' m' ∈ P }}) ->
+    forall d d', {{ Dom d ≈ d' ∈ per_univ i }} -> {{ Dom d ≈ d' ∈ P }}.
```
Comment (Ailrun) [inline theories/Core/Semantic/PERLemmas.v:89]: Actually, I realized that I need a dependent inductive principle for elem; However, because of how `rel_mod_eval` contains functions, we need to introduce functional extensionality this early.

It might be better to find a different way to encode `rel_mod_eval` (and `rel_mod_app`).

File: theories/Core/Semantic/PER.v [hunk 4]
```diff
@@ -49,142 +37,66 @@ Inductive per_nat : relation domain :=
...
+            {{ DF 𝕌@j ≈ 𝕌@j' ∈ per_univ_elem ↘ per_univ_rec lt_j_i }} }
+    | per_univ_elem_nat : {{ DF ℕ ≈ ℕ ∈ per_univ_elem ↘ per_nat }}
+    | per_univ_elem_pi :
+      `{ forall (in_rel : relation domain)
+            (out_rel : forall {c c'}, {{ Dom c ≈ c' ∈ in_rel }} -> relation domain)
+            (equiv_a_a' : {{ DF a ≈ a' ∈ per_univ_elem ↘ in_rel}}),
+            (forall {c c'} (equiv_c_c' : {{ Dom c ≈ c' ∈ in_rel }}),
+                rel_mod_eval per_univ_elem B d{{{ p ↦ c }}} B' d{{{ p' ↦ c' }}} (out_rel equiv_c_c')) ->
+            let
+              elem_rel f f' := forall {c c'} (equiv_c_c' : in_rel c c'),
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/PER.v:61]: I would recommend turning `elem_rel` into a real variable, not a local one, so this line should be `elem_rel = fun f f' => ...`. This change will help with unification and most likely appear necessary later when we prove theorems.

File: theories/Core/Semantic/PER.v [hunk 5]
```diff
@@ -49,142 +37,66 @@ Inductive per_nat : relation domain :=
...
-End Per_ctx_def.
-
-Definition per_ctx : relation ctx := fun Γ Γ' => exists (eq_Γ_Γ' : Per_ctx_def.per_ctx_template Γ Γ'), Per_ctx_def.per_ctx_check eq_Γ_Γ'.
-
-Definition per_env {Γ Γ'} (eq_Γ_Γ' : Per_ctx_def.per_ctx_template Γ Γ') : relation env := Per_ctx_def.per_env_template eq_Γ_Γ'.
+Definition per_univ_like (R : domain -> domain -> relation domain -> Prop) := fun a a' => exists R', {{ DF a ≈ a' ∈ R ↘ R' }}.
+#[global]
+Transparent per_univ_like.
+
+Program Fixpoint per_univ_elem (i : nat) {wf lt i} : domain -> domain -> relation domain -> Prop := Per_univ_def.per_univ_elem i (fun _ lt_j_i => per_univ_like (per_univ_elem _ lt_j_i)).
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/PER.v:78]: will `Equations` make this line better? `Program Fixpoint` is not usually considered nice to work with definitional equalities. What equality can we get from it?

File: theories/Core/Semantic/PER.v [hunk 6]
```diff
@@ -49,142 +37,66 @@ Inductive per_nat : relation domain :=
...
+Definition per_univ (i : nat) : relation domain := per_univ_like (per_univ_elem i).
+
+Definition rel_typ (i : nat) (A : typ) (p : env) (A' : typ) (p' : env) R' := rel_mod_eval (per_univ_elem i) A p A' p' R'.
+
+Inductive per_ctx_env : ctx -> ctx -> relation env -> Prop :=
+| per_ctx_env_nil :
+  let
+    Env p p' := True
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/PER.v:86]: same here. let's use a real variable. same below.

File: theories/Core/Semantic/PERLemmas.v [hunk 7]
```diff
@@ -1,105 +1,141 @@
...
+with per_elem_sym : forall m m' i R R'
+  (equiv_m_m' : {{ DF m ≈ m' ∈ per_univ_elem i ↘ R }})
+  (equiv_m'_m : {{ DF m' ≈ m ∈ per_univ_elem i ↘ R' }}),
+    {{ Dom m ≈ m' ∈ R }} ->
+    {{ Dom m' ≈ m ∈ R' }}.
+Proof with mauto.
+  - intros.
+    destruct H as [per_elem Hper_univ].
+    unfold in_dom_fun_rel in *.
+    dependent induction Hper_univ; try solve [subst; eexists; econstructor; mauto].
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/PERLemmas.v:119]: pull `subst` outside maybe? i.e. right after induction.

**Comment by HuStmpHrrr** [comment]
Following the Agda code, I am hoping some equations to kill off details due to the well-founded recursion on universe levels. This should be even simpler in Coq, as we have `autorewrite`. c.f. https://gitlab.com/JasonHuZS/practice/-/blob/master/MLTT/Semantics/Properties/PER/Core.agda?ref_type=heads#L26

**Comment by HuStmpHrrr** [comment]
please check this Equations definition out. It produces much better equations as well as better tactic supports.

```coq
From Equations Require Import Equations.

Equations per_univ_elem_r (i : nat) (A B : domain) (R : relation domain) : Prop by wf i lt :=
per_univ_elem_r i A B R := per_univ_elem i (fun {j} ji A' B' => exists R', per_univ_elem_r j A' B' R') A B R.
```

File: theories/Core/Semantic/PER.v [hunk 8]
```diff
@@ -0,0 +1,102 @@
...
+     {{ Dom ⇑ ℕ m ≈ ⇑ ℕ n ∈ per_nat }} }
+.
+
+Inductive per_ne : relation domain :=
+| per_ne_neut :
+  `{ {{ Dom m ≈ m' ∈ per_bot }} ->
+     {{ Dom ⇑ a m ≈ ⇑ a' m' ∈ per_ne }} }
+.
+
+Module Per_univ_def.
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/PER.v:44]: I don't think this module is necessary as we will have to refer to these constructors.

**Comment by Ailrun** [comment]
@HuStmpHrrr 
> please check this Equations definition out. It produces much better equations as well as better tactic supports.

What kind of tactics you mean? Like `dependent induction`? As far as I can see both give terrible assumptions (with expanded well-founded recursion). For example, the universe case for `per_elem_sym` has
<details>
<summary>Open this for eye sore</summary>

```
Hper_elem : exists R' : relation domain,
                (fix Fix_F (x : nat) (a : Acc (fun x0 y : nat => x0 < y) x) {struct a} : domain -> domain -> relation domain -> Prop :=
                   per_univ_elem_functional x (fun (y : nat) (h : y < x) => Fix_F y (Acc_inv a h))) j'
                  ((fix F (x : nat) (a : Acc lt x) {struct a} : forall a0 : nat, a0 = x -> Acc (MR lt (fun i : nat => i)) a0 :=
                      match a with
                      | Acc_intro _ a0 =>
                          fun (a1 : nat) (H0 : a1 = x) =>
                          Acc_intro a1
                            (fun (y : nat) (H1 : MR lt (fun i : nat => i) y a1) =>
                             F y (a0 y (eq_ind a1 (fun m : nat => y < m) H1 x H0)) y eq_refl)
                      end) j'
                     ((fix F (n : nat) : forall a : nat, a < n -> Acc (Wf_nat.ltof nat (fun m : nat => m)) a :=
                         match n as n0 return (forall a : nat, a < n0 -> Acc (Wf_nat.ltof nat (fun m : nat => m)) a) with
                         | 0 => fun (a : nat) (Ha : a < 0) => False_ind (Acc (Wf_nat.ltof nat (fun m : nat => m)) a) (Nat.nlt_0_r a Ha)
                         | S n0 =>
                             fun (a : nat) (Ha : a < S n0) =>
                             Acc_intro a
                               (fun (b : nat) (Hb : b < a) =>
                                F n0 b (Nat.lt_le_trans b a n0 Hb (match Nat.succ_le_mono a n0 with
                                                                   | conj _ x0 => x0
                                                                   end Ha)))
                         end) i j'
                        (Nat.lt_le_trans j' i i (PER.per_univ_elem_obligations_obligation_1 i j' lt_j_i)
                           (match Nat.succ_le_mono i i with
                            | conj _ x0 => x0
                            end (Nat.lt_succ_diag_r i)))) j' eq_refl) d{{{ 𝕌 @ j'}}} d{{{ 𝕌 @ j'}}} R'
```

</details>

where as `Program Fixpoint` gives
<details>
<summary>Yet another eye sore is ready</summary>

```
Hper_elem : exists R' : relation domain,
                Fix_F_sub nat (MR lt (fun recarg : nat => recarg)) (fun _ : nat => domain -> domain -> relation domain -> Prop)
                  (fun (recarg : nat) (per_univ_elem' : {recarg' : nat | recarg' < recarg} -> domain -> domain -> relation domain -> Prop)
                   =>
                   per_univ_elem_core recarg
                     (fun (j : nat) (lt_j_i : j < recarg) (a a' : domain) =>
                      exists R'0 : relation domain, per_univ_elem' (exist (fun recarg' : nat => recarg' < recarg) j lt_j_i) a a' R'0)) j'
                  (nat_ind (fun n : nat => forall a : nat, a < n -> Acc (Wf_nat.ltof nat (fun m : nat => m)) a)
                     (fun (a : nat) (Ha : a < 0) => False_ind (Acc (Wf_nat.ltof nat (fun m : nat => m)) a) (Nat.nlt_0_r a Ha))
                     (fun (n : nat) (IHn : forall a : nat, a < n -> Acc (Wf_nat.ltof nat (fun m : nat => m)) a) (a : nat) (Ha : a < S n)
                      =>
                      Acc_intro a
                        (fun (b : nat) (Hb : b < a) =>
                         IHn b (Nat.lt_le_trans b a n Hb (match Nat.succ_le_mono a n with
                                                          | conj _ x0 => x0
                                                          end Ha)))) i j'
                     (Nat.lt_le_trans j' i i lt_j_i (match Nat.succ_le_mono i i with
                                                     | conj _ x0 => x0
                                                     end (Nat.lt_succ_diag_r i)))) d{{{ 𝕌 @ j'}}} d{{{ 𝕌 @ j'}}} R'
```

</details>

I don't think neither is more preferable.

**Comment by Ailrun** [comment]
Just in case you want to see the equation-based definition,
```
Equations per_univ_elem (i : nat) : domain -> domain -> relation domain -> Prop by wf i :=
| i => per_univ_elem_core i (fun j lt_j_i a a' => exists R', per_univ_elem j a a' R').
Definition per_univ (i : nat) : relation domain := fun a a' => exists R', per_univ_elem i a a' R'.
```
and the lemma is, as committed,
```
Lemma per_univ_sym : forall m m' i,
    {{ Dom m ≈ m' ∈ per_univ i }} <-> {{ Dom m' ≈ m ∈ per_univ i }}
with per_elem_sym : forall m m' i R R'
  (equiv_m_m' : {{ DF m ≈ m' ∈ per_univ_elem i ↘ R }})
  (equiv_m'_m : {{ DF m' ≈ m ∈ per_univ_elem i ↘ R' }}),
    {{ Dom m ≈ m' ∈ R }} <-> {{ Dom m' ≈ m ∈ R' }}.
```

File: theories/Core/Semantic/PER.v (hunk 8 above)
Comment (Ailrun) [reply theories/Core/Semantic/PER.v]: Agreed. This is fixed now.

File: theories/Core/Semantic/PER.v (hunk 4 above)
Comment (Ailrun) [reply theories/Core/Semantic/PER.v]: Sure, that would be better if we ever need to deal with problems arising from (absence of) UIP. All similar things are fixed.

**Comment by HuStmpHrrr** [comment]
> @HuStmpHrrr 
> > please check this Equations definition out. It produces much better equations as well as better tactic supports.
> 
> What kind of tactics you mean? Like `dependent induction`? As far as I can see both give terrible assumptions (with expanded well-founded recursion). For example, the universe case for `per_elem_sym` has
> <details>
> <summary>Open this for eye sore</summary>
> 
> ```
> Hper_elem : exists R' : relation domain,
>                 (fix Fix_F (x : nat) (a : Acc (fun x0 y : nat => x0 < y) x) {struct a} : domain -> domain -> relation domain -> Prop :=
>                    per_univ_elem_functional x (fun (y : nat) (h : y < x) => Fix_F y (Acc_inv a h))) j'
>                   ((fix F (x : nat) (a : Acc lt x) {struct a} : forall a0 : nat, a0 = x -> Acc (MR lt (fun i : nat => i)) a0 :=
>                       match a with
>                       | Acc_intro _ a0 =>
>                           fun (a1 : nat) (H0 : a1 = x) =>
>                           Acc_intro a1
>                             (fun (y : nat) (H1 : MR lt (fun i : nat => i) y a1) =>
>                              F y (a0 y (eq_ind a1 (fun m : nat => y < m) H1 x H0)) y eq_refl)
>                       end) j'
>                      ((fix F (n : nat) : forall a : nat, a < n -> Acc (Wf_nat.ltof nat (fun m : nat => m)) a :=
>                          match n as n0 return (forall a : nat, a < n0 -> Acc (Wf_nat.ltof nat (fun m : nat => m)) a) with
>                          | 0 => fun (a : nat) (Ha : a < 0) => False_ind (Acc (Wf_nat.ltof nat (fun m : nat => m)) a) (Nat.nlt_0_r a Ha)
>                          | S n0 =>
>                              fun (a : nat) (Ha : a < S n0) =>
>                              Acc_intro a
>                                (fun (b : nat) (Hb : b < a) =>
>                                 F n0 b (Nat.lt_le_trans b a n0 Hb (match Nat.succ_le_mono a n0 with
>                                                                    | conj _ x0 => x0
>                                                                    end Ha)))
>                          end) i j'
>                         (Nat.lt_le_trans j' i i (PER.per_univ_elem_obligations_obligation_1 i j' lt_j_i)
>                            (match Nat.succ_le_mono i i with
>                             | conj _ x0 => x0
>                             end (Nat.lt_succ_diag_r i)))) j' eq_refl) d{{{ 𝕌 @ j'}}} d{{{ 𝕌 @ j'}}} R'
> ```
> 
> </details>
> 
> where as `Program Fixpoint` gives
> <details>
> <summary>Yet another eye sore is ready</summary>
> 
> ```
> Hper_elem : exists R' : relation domain,
>                 Fix_F_sub nat (MR lt (fun recarg : nat => recarg)) (fun _ : nat => domain -> domain -> relation domain -> Prop)
>                   (fun (recarg : nat) (per_univ_elem' : {recarg' : nat | recarg' < recarg} -> domain -> domain -> relation domain -> Prop)
>                    =>
>                    per_univ_elem_core recarg
>                      (fun (j : nat) (lt_j_i : j < recarg) (a a' : domain) =>
>                       exists R'0 : relation domain, per_univ_elem' (exist (fun recarg' : nat => recarg' < recarg) j lt_j_i) a a' R'0)) j'
>                   (nat_ind (fun n : nat => forall a : nat, a < n -> Acc (Wf_nat.ltof nat (fun m : nat => m)) a)
>                      (fun (a : nat) (Ha : a < 0) => False_ind (Acc (Wf_nat.ltof nat (fun m : nat => m)) a) (Nat.nlt_0_r a Ha))
>                      (fun (n : nat) (IHn : forall a : nat, a < n -> Acc (Wf_nat.ltof nat (fun m : nat => m)) a) (a : nat) (Ha : a < S n)
>                       =>
>                       Acc_intro a
>                         (fun (b : nat) (Hb : b < a) =>
>                          IHn b (Nat.lt_le_trans b a n Hb (match Nat.succ_le_mono a n with
>                                                           | conj _ x0 => x0
>                                                           end Ha)))) i j'
>                      (Nat.lt_le_trans j' i i lt_j_i (match Nat.succ_le_mono i i with
>                                                      | conj _ x0 => x0
>                                                      end (Nat.lt_succ_diag_r i)))) d{{{ 𝕌 @ j'}}} d{{{ 𝕌 @ j'}}} R'
> ```
> 
> </details>
> 
> I don't think any of these is more preferable.

Check Equations documentation. It produces propositional equality to help you reason about definitions using Equations. Equations is not meant to be unfolded.

**Comment by HuStmpHrrr** [comment]
To be more specific, this is what I can see Equations generates, among other things:

```coq
per_univ_elem_r_equation_1 :
forall (i : nat) (A B : domain) (R : relation domain),
per_univ_elem_r i A B R =
per_univ_elem i (fun (j : nat) (_ : j < i) (A' B' : domain) => exists R' : relation domain, per_univ_elem_r j A' B' R') A B
```

In general, Equations generates one equation for each clause, just like Agda. The difference is, Equations only produces propositional equalities. Usually Equations is not meant to be used definitionally. I believe the tactic that does the unfolding is `simp per_univ_elem_r`. This will trigger this equation, and then we can do induction on `per_univ_elem` which has a nice builtin induction principle.

I would first advice reading https://raw.githubusercontent.com/mattam82/Coq-Equations/main/doc/equations.pdf and go though https://raw.githubusercontent.com/mattam82/Coq-Equations/master/doc/equations_intro.v to have an understanding of Equations. This plugin is so much more powerful than Program Fixpoint that the latter should be deprecated.

**Comment by Ailrun** [comment]
The point is: I didn't unfold anything (other than the `in_dom_rel` kind things). I don't see how it gives a better IH/assumptions. FYI, I have read the documents you suggested before.

**Comment by HuStmpHrrr** [comment]
> The point is: I didn't unfold anything (other than the `in_dom_rel` kind things). I don't see how it gives a better IH/assumptions. FYI, I have read the documents you suggested before.

then how the exact definition Equations generates troubles you? I don't get it. `simp per_univ_elem` should give you something simple to do induction on.

**Comment by Ailrun** [comment]
Ok, as you suggested so surely I tried to move `simp` here and there, and it somehow gives a better assumption after induction only when used at a very specific position. But yes, now it gives a sane assumption.

**Comment by Ailrun** [comment]
@HuStmpHrrr I guess I found the problem to do with `Prop` large elimination.
```
  per_univ_sym : forall (m m' : domain) (i : nat), {{ Dom m ≈ m' ∈ per_univ i }} -> {{ Dom m' ≈ m ∈ per_univ i }}
  per_elem_sym : forall (m m' : domain) (i : nat) (R R' : relation domain) (a a' : domain),
                 {{ DF m ≈ m' ∈ per_univ_elem i ↘ R }} ->
                 {{ DF m' ≈ m ∈ per_univ_elem i ↘ R' }} -> {{ Dom a ≈ a' ∈ R }} <-> {{ Dom a' ≈ a ∈ R' }}
  i : nat
  a, a' : domain
  B : typ
  p : env
  B' : typ
  p' : env
  in_rel : relation domain
  out_rel : forall c c' : domain, {{ Dom c ≈ c' ∈ in_rel }} -> relation domain
  equiv_a_a' : {{ DF a ≈ a' ∈ per_univ_elem i ↘ in_rel }}
  H : forall (c c' : domain) (equiv_c_c' : {{ Dom c ≈ c' ∈ in_rel }}),
      rel_mod_eval (per_univ_elem i) B d{{{ p ↦ c }}} B' d{{{ p' ↦ c' }}} (out_rel c c' equiv_c_c')
  in_rel' : relation domain
  IHequiv_a_a' : per_univ_elem i a' a in_rel'
  ============================
  {{ Dom Π a' p' B' ≈ Π a p B ∈ per_univ i }}
```
Here, we need to provide `out_rel' : forall c' c : domain, {{ Dom c' ≈ c ∈ in_rel' }} -> relation domain` for
```
forall (c' c : domain) (equiv_c'_c : {{ Dom c' ≈ c ∈ in_rel' }}),
  rel_mod_eval (per_univ_elem i) B' d{{{ p' ↦ c' }}} B d{{{ p ↦ c }}} (out_rel' c' c equiv_c'_c)
```
whose existence does not depend on `equiv_c'_c`. However, we cannot build `out_rel'` in front because
it asks us to destruct `rel_mod_eval` (which is `Prop`, and cannot be `Type` because of the `per_univ_elem` definition)
while `relation domain : Type`.

**Comment by HuStmpHrrr** [comment]
did you take `relation` from standard library? `relation domain` should be a `Prop`.

**Comment by Ailrun** [comment]
It is `domain -> domain -> Prop`, but `Prop` itself is of `Type`.

**Comment by HuStmpHrrr** [comment]
push the code and let me take a look?

**Comment by HuStmpHrrr** [comment]
I pushed some changes. I think this will enable the proof.

File: theories/Core/Semantic/PERLemmas.v [hunk 9]
```diff
@@ -0,0 +1,163 @@
+From Coq Require Import Lia PeanoNat Relations Program.Equality.
+From Mcltt Require Import Axioms Base Domain Evaluate LibTactics PER Readback Syntax System.
+From Equations Require Import Equations.
+
+Lemma per_univ_elem_sym : forall i A B R,
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/PERLemmas.v:5]: This I believe is the right statement for symmetry. Notice how I use `per_univ_elem_ind` to do induction. we will have to use indefinite description in the Pi case.

File: theories/Core/Semantic/PER.v [hunk 10]
```diff
@@ -0,0 +1,210 @@
...
+
+
+Definition per_univ_like (R : domain -> domain -> relation domain -> Prop) := fun a a' => exists R', {{ DF a ≈ a' ∈ R ↘ R' }}.
+#[global]
+Transparent per_univ_like.
+
+=======
+Definition per_univ (i : nat) : relation domain := fun a a' => exists R', per_univ_elem i a a' R'.
+
+>>>>>>> 47fa52f5eb989104966e70555de900ab7ce0e164
```
Comment (Ailrun) [inline theories/Core/Semantic/PER.v]: There are some unmerged code parts. Could you clean them up?

**Comment by HuStmpHrrr** [comment]
Symmetry is done, modulo some easy open holes. Please help fill things in.

File: theories/Core/Semantic/EvaluateLemmas.v [hunk 11]
```diff
@@ -0,0 +1,56 @@
+From Coq Require Import Lia PeanoNat Relations.
+From Mcltt Require Import Base Domain Evaluate LibTactics Syntax System.
+
+Definition functional_eval_exp_prop M p m1 (_ : {{ ⟦ M ⟧ p ↘ m1 }}) : Prop := forall m2 (Heval2: {{ ⟦ M ⟧ p ↘ m2 }}), m1 = m2.
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/EvaluateLemmas.v:4]: These definitions are not very helpful frankly. Why are we using these?

Comment (Ailrun) [reply theories/Core/Semantic/EvaluateLemmas.v:4]: As you can see in the proof, we need to repeat them quite often. This is to factor out such repetition into an identifier repetition.

File: theories/Core/Semantic/EvaluateLemmas.v [hunk 12]
```diff
@@ -0,0 +1,56 @@
...
+Definition functional_eval_natrec_prop A MZ MS m p r1 (_ : {{ rec m ⟦return A | zero -> MZ | succ -> MS end⟧ p ↘ r1 }}) : Prop := forall r2 (Heval2 : {{ rec m ⟦return A | zero -> MZ | succ -> MS end⟧ p ↘ r2 }}), r1 = r2.
+Definition functional_eval_app_prop m n r1 (_ : {{ $| m & n |↘ r1 }}) : Prop := forall r2 (Heval2 : {{ $| m & n |↘ r2 }}), r1 = r2.
+Definition functional_eval_sub_prop σ p p1 (_ : {{ ⟦ σ ⟧s p ↘ p1 }}) : Prop := forall p2 (Heval2 : {{ ⟦ σ ⟧s p ↘ p2 }}), p1 = p2.
+
+Ltac unfold_functional_eval_prop := unfold functional_eval_exp_prop, functional_eval_natrec_prop, functional_eval_app_prop, functional_eval_sub_prop in *.
+
+Lemma functional_eval_exp : forall {M p m1} (Heval1 : {{ ⟦ M ⟧ p ↘ m1 }}), functional_eval_exp_prop M p m1 Heval1
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/EvaluateLemmas.v:11]: Let's change the statement of these lemmas and we are ready to merge this PR. The current statement will render the hints inserted below useless.

File: theories/Core/Semantic/ReadbackLemmas.v [hunk 13]
```diff
@@ -0,0 +1,57 @@
+From Coq Require Import Lia PeanoNat Relations.
+From Mcltt Require Import Base Domain Evaluate EvaluateLemmas LibTactics Readback Syntax System.
+
+Definition functional_read_nf_prop s m M1 (_ : {{ Rnf m in s ↘ M1 }}) : Prop := forall M2 (Hread2: {{ Rnf m in s ↘ M2 }}), M1 = M2.
+Definition functional_read_ne_prop s m M1 (_ : {{ Rne m in s ↘ M1 }}) : Prop := forall M2 (Hread2 : {{ Rne m in s ↘ M2 }}), M1 = M2.
+Definition functional_read_typ_prop s m M1 (_ : {{ Rtyp m in s ↘ M1 }}) : Prop := forall M2 (Hread2 : {{ Rtyp m in s ↘ M2 }}), M1 = M2.
+
+Ltac unfold_functional_read_prop := unfold functional_read_nf_prop, functional_read_ne_prop, functional_read_typ_prop in *.
+
+Lemma functional_read_nf : forall {s m M1} (Hread1 : {{ Rnf m in s ↘ M1 }}), functional_read_nf_prop s m M1 Hread1
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/ReadbackLemmas.v:10]: also here. the same problem.

File: theories/Core/Semantic/EvaluateLemmas.v [hunk 14]
```diff
@@ -0,0 +1,56 @@
+From Coq Require Import Lia PeanoNat Relations.
+From Mcltt Require Import Base Domain Evaluate LibTactics Syntax System.
+
+Definition functional_eval_exp_prop M p m1 (_ : {{ ⟦ M ⟧ p ↘ m1 }}) : Prop := forall m2 (Heval2: {{ ⟦ M ⟧ p ↘ m2 }}), m1 = m2.
+Definition functional_eval_natrec_prop A MZ MS m p r1 (_ : {{ rec m ⟦return A | zero -> MZ | succ -> MS end⟧ p ↘ r1 }}) : Prop := forall r2 (Heval2 : {{ rec m ⟦return A | zero -> MZ | succ -> MS end⟧ p ↘ r2 }}), r1 = r2.
+Definition functional_eval_app_prop m n r1 (_ : {{ $| m & n |↘ r1 }}) : Prop := forall r2 (Heval2 : {{ $| m & n |↘ r2 }}), r1 = r2.
+Definition functional_eval_sub_prop σ p p1 (_ : {{ ⟦ σ ⟧s p ↘ p1 }}) : Prop := forall p2 (Heval2 : {{ ⟦ σ ⟧s p ↘ p2 }}), p1 = p2.
+
+Ltac unfold_functional_eval_prop := unfold functional_eval_exp_prop, functional_eval_natrec_prop, functional_eval_app_prop, functional_eval_sub_prop in *.
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/EvaluateLemmas.v:9]: I am no longer sure what's the default behavior of the current version of Coq. will this tactic be exported? If so, let's localize it. the same as below.

Comment (Ailrun) [reply theories/Core/Semantic/EvaluateLemmas.v:9]: I removed the tactic with `Arguments` now. I will push them.

File: theories/Core/Semantic/EvaluateLemmas.v [hunk 15]
```diff
@@ -0,0 +1,62 @@
...
+      with (P := functional_eval_exp_prop)
+           (P0 := functional_eval_natrec_prop)
+           (P1 := functional_eval_app_prop);
+      simpl in *; mauto;
+      intros; inversion Heval2; clear Heval2; subst; do 2 f_equal;
+      try solve [mauto|erewrite IHHeval1 in *; mauto|erewrite IHHeval1, IHHeval0 in *; mauto|erewrite IHHeval1_1 in *; mauto].
+Qed.
+
+#[export]
+Hint Resolve functional_eval_exp functional_eval_natrec functional_eval_app functional_eval_sub : mcltt.
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/EvaluateLemmas.v:62]: I am frankly not sure how this resolve is useful generally. Usually resolve is useful when from the goal one almost know all the inputs of the theorem, but in this case, the conclusion being just an equality gives little information about the premises. Let's keep them here for now. I think it's probably more useful to code this up as a tactic, which matches the context, finds matching premises and applies the equalities.

Comment (Ailrun) [reply theories/Core/Semantic/EvaluateLemmas.v:62]: This already reduced some proofs in `ReadbackLemmas.v` and `PERLemmas.v`. (in the `Improve some proofs` commit)

File: theories/Core/Semantic/EvaluateLemmas.v [hunk 16]
```diff
@@ -0,0 +1,67 @@
...
+Section functional_eval.
+  Let functional_eval_exp_prop M p m1 (_ : {{ ⟦ M ⟧ p ↘ m1 }}) : Prop := forall m2 (Heval2: {{ ⟦ M ⟧ p ↘ m2 }}), m1 = m2.
+  Let functional_eval_natrec_prop A MZ MS m p r1 (_ : {{ rec m ⟦return A | zero -> MZ | succ -> MS end⟧ p ↘ r1 }}) : Prop := forall r2 (Heval2 : {{ rec m ⟦return A | zero -> MZ | succ -> MS end⟧ p ↘ r2 }}), r1 = r2.
+  Let functional_eval_app_prop m n r1 (_ : {{ $| m & n |↘ r1 }}) : Prop := forall r2 (Heval2 : {{ $| m & n |↘ r2 }}), r1 = r2.
+  Let functional_eval_sub_prop σ p p1 (_ : {{ ⟦ σ ⟧s p ↘ p1 }}) : Prop := forall p2 (Heval2 : {{ ⟦ σ ⟧s p ↘ p2 }}), p1 = p2.
+
+  #[local]
+  Ltac unfold_functional_eval := unfold functional_eval_exp_prop, functional_eval_natrec_prop, functional_eval_app_prop, functional_eval_sub_prop in *.
+
+  Lemma functional_eval_exp : forall M p m1 (Heval1 : {{ ⟦ M ⟧ p ↘ m1 }}), functional_eval_exp_prop M p m1 Heval1.
```
Comment (Ailrun) [inline theories/Core/Semantic/EvaluateLemmas.v:13]: Unlike before, these `functional_eval_exp_prop`-likies are bound only locally and in the resolve database they work as expected.

**Review by HuStmpHrrr — APPROVED** [review]
